### PR TITLE
[Merged by Bors] - feat: values of `preAleph.symm`

### PR DESCRIPTION
**Pull request by vihdzp**
For a cardinal `c`, `preAleph.symm c` returns the ordinal index of `c`, within the well-order of cardinals.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Regular.lean [hunk 1]
```diff
@@ -431,6 +431,9 @@ theorem IsInaccessible.preAleph_ord (hc : IsInaccessible c) : preAleph c.ord = c
   ((preAleph_le_preBeth _).trans hc.preBeth_ord.le).antisymm
     (preAleph.strictMono.comp ord_strictMono).le_apply
 
+theorem IsInaccessible.preAleph_symm (hc : IsInaccessible c) : preAleph.symm c = c.ord := by
```
Comment (YaelDillies) [inline Mathlib/SetTheory/Cardinal/Regular.lean]:
```suggestion
theorem IsInaccessible.preAleph_symm_eq_ord (hc : IsInaccessible c) : preAleph.symm c = c.ord := by
```
maybe?

**Review by YaelDillies — COMMENTED** [review]
Aren't you missing "inaccessible" in your PR description?

**Comment by vihdzp** [comment]
No, the PR description doesn't require an inaccessible cardinal. e.g. `preAleph.symm ℵ₁ = ω + 1` since `ℵ₁` is the `(ω + 1)`-th cardinal.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/SetTheory/Cardinal/Aleph.lean [hunk 2]
```diff
@@ -336,13 +336,23 @@ theorem preAleph_succ (o : Ordinal) : preAleph (succ o) = succ (preAleph o) :=
   preAleph.map_succ o
 
 @[simp]
-theorem preAleph_nat (n : ℕ) : preAleph n = n := by
+theorem preAleph_natCast (n : ℕ) : preAleph n = n := by
   rw [← card_preOmega, preOmega_natCast, card_nat]
```
Comment (b-mehta) [inline Mathlib/SetTheory/Cardinal/Aleph.lean:346]: While you're here, it might make sense to add versions of these for `ofNat(n)` so that eg `preAleph 2` works nicely in simp.

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+

**Comment by plp127** [comment]
why are there 2292 changed files
